US06462036B1
A mixture of methyl 4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzoate (0.3 g) and N,N-diethylethylenediamine (1 ml) was heated at 150° C. for 3.5 hours and then at 180° C. for 2 hours. The mixture was cooled and dissolved in industrial methylated spirit and this solution was preabsorbed onto silica which was applied to the top of a flash column. The column was eluted with dichloromethane/industrial methylated spirit/triethylamine (25:2:1) to give a solid which was stirred with water for 1 hour, filtered and dried under vacuum at 60° C. to give N-(2-diethylaminoethyl)-4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzamide, m.p. 172-174° C.

reactant | methyl 4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzoate | 0.3 g | N1N=C(C2=C1C1=CC=CC=C1C2)C2=CC=C(C(=O)OC)C=C2 | C18H14N2O2
reactant | N,N-diethylethylenediamine | 1 ml | C(C)N(CCN)CC | C6H16N2
solvent | water | O | H2O
product | N-(2-diethylaminoethyl)-4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzamide | C(C)N(CCNC(C1=CC=C(C=C1)C=1C2=C(NN1)C1=CC=CC=C1C2)=O)CC | C23H26N4O
